US04983630
2-(2,2-Difluorocyclopropyl)ethyl 3,4-dichlorophenylcarbamate
2 g (16 mmol) 2-(2,2-Difluorocyclopropyl)ethanol, dissolved in 5 ml tetrahydrofuran (THF) was treated with 3 g (16 mmol) of 3,4-dichlorophenyl isocyanate. After 6 hours reaction time at room temperature, the mixture was concentrated in vacuo and the residue recrystallised from cyclohexane. A sample was analysed by thin layer chromatography (hexane:ethyl acetate=1:1) (Rf=0.54).

reactant | 2-(2,2-Difluorocyclopropyl)ethanol | 16 mmol, 2 g | FC1(C(C1)CCO)F | C5H8F2O
reactant | 3,4-dichlorophenyl isocyanate | 16 mmol, 3 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(2,2-Difluorocyclopropyl)ethyl 3,4-dichlorophenylcarbamate | ClC=1C=C(C=CC1Cl)NC(OCCC1C(C1)(F)F)=O | C12H11Cl2F2NO2
